US06110962
4-(6-Chloro-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol
A biphasic mixture of methanesulfonic acid 4-(6-chloro-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester (0.917 g, 2.09 mmol) in dioxane (13 mL) and a solution of sodium hydroxide (2.5 N, 6.7 mL, 16.7 mmol, 8 eq) was heated at reflux overnight. After cooling to room temperature the reaction mixture was combined with water (50 mL), acidified with concentrated hydrochloric acid, and stirred for 15 minutes. The crude white solid product was collected by filtration, redissolved in ether, combined with silica gel, and the solvent was removed. The adsorbate was flash chromatographed (gradient 85/15-80/20 petroleum ether/ethyl acetate) to give the title compound as a white solid (0.705 g, 94%); mp 193-195° C.; NMR (CDCl3); δ 8.37 (ddd, J=8, 1, Hz, 1H), 7.81 (ddd, J=8, 1, 1 Hz, 1H), 7.68-7.63 (m, 2H), 7.44 (ddd, J=8, 7, 1 Hz, 1H), 7.39 (ddd, J=8, 7, 1 Hz, 1H), 7.29-7.26 (m, 2H,), 7.14-7.09 (m, 3H), 6.81 (ddd, J=8, 1, 1 Hz, 1H), 5.01 (d, J=4 Hz, 1H); MS (+EI): [M+], 1 chlorine isotope pattern, 360 (100%), 362 (45%); Anal. calc. for C22H13ClOS: C, 73.23, H, 3.63, N, 0.00. Found: C, 72.86, H, 3.24, N, 0.04.

reactant | methanesulfonic acid 4-(6-chloro-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester | 2.09 mmol, 0.917 g | ClC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)OS(=O)(=O)C | C23H15ClO3S2
reactant | sodium hydroxide | 16.7 mmol, 2.5 N, 6.7 mL, 8 eq | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
product | 4-(6-Chloro-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenol | 0.705 g, 94% | ClC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)O | C22H13ClOS
